US04613676
BOC-Phe-His-Leu-Val-Ala-Sta-OCH3
In a manner analogous to that described in Example 1, using as starting materials 52 mg of BOC-Phe-His-OH, 60 mg of H-Leu-Val-Ala-Sta-OCH3.HCl, 18 mg of HOBT, 0.24 ml of ethyldiisopropylamine and 34 mg of DCCI, the title compound is obtained in the form of a colourless powder after flash chromatography (30 g of silica gel 60, 40-63 μm, system N8). Rf(N9)=0.38.

reactant | BOC-Phe-His-OH | 52 mg | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O)C(=O)OC(C)(C)C | C20H26N4O5
reactant | H-Leu-Val-Ala-Sta-OCH3.HCl | 60 mg | N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)[C@@H](O)CC(=O)OC.Cl
reactant | HOBT | 18 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ethyldiisopropylamine | 0.24 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | DCCI | 34 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | BOC-Phe-His-Leu-Val-Ala-Sta-OCH3 | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)[C@@H](O)CC(=O)OC)C(=O)OC(C)(C)C | C43H68N8O10
